US08404731B2
5-{3-[2-(4-Bromo-benzyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (prepared according to general procedures A, R and C stepwise) (56 mg, 0.1 mmol) was treated as described in general procedure G using 4-cyclohexylphenylboronic acid (41 mg, 0.2 mmol) to give 5-{3-[2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{3-[2-(4-Bromo-benzyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)F)F)C=2C=C(C=CC2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrF2N4O3S
reactant | 4-cyclohexylphenylboronic acid | 0.2 mmol, 41 mg | C1(CCCCC1)C1=CC=C(C=C1)B(O)O | C12H17BO2
product | 5-{3-[2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | C1(CCCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)F)F)C=1C=C(C=CC1)N1CC(NS1(=O)=O)=O | C36H32F2N4O3S
